### ISSUE TITLE
[Bug] Kernel error when blaster tactic is used and some other subgoals are conculded with sorry/proofs

### ISSUE THREAD

**Issue by etiennejf** [input-output-hk/Lean-blaster#30]
Error `(kernel)` application type mismatch ...` is raised when `blaster` tactic is used to prove some of the sub-goals of a theorem, while some remaining sub-goals are concluded with either `sorry` or a manual proof is provided.

E.g. Here blaster tactic is only used to optimize the goal to be proved.

```
theorem sto8 : 
∀ (x : ProcessSCInput) (s : ComputeReserve),
   isSellSCOrder x →
   validOrderInput x →
   resultToComputeReserve (fromHaltState $ compiledProcessSCOrder x) = some s →
   validSellSC x s := by
   intro x s;
   blaster (only-optimize: 1)
   by_cases x.state.crN_SC = 0 <;>
   by_cases x.state.crN_RC = 0
   . sorry
   . sorry
   . sorry
   . sorry
```
